US07091353B2
N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-methoxyacetamide I-29
To a suspension of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (0.55 g, 2.0 mmol) in THF (30 ml) was added 2-methoxyacetyl chloride (0.43 g, 4.0 mmol). The stirred mixture was heated to reflux for 18 hours. The solvent was evaporated in vacuo and the resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.69 g (100%) of product as an off-white solid: mp 246–248° C.; 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 10.30 (s, 1H), 8.70 (d, J=8.4 Hz, 1H), 7.86 (t, J=7.8 Hz, 1H), 7.63 (d, J=7.3 Hz, 1H), 5.17 (dd, J=5.2 and 12.7 Hz, 1H), 4.11 (s, 2H), 3.49 (s, 3H), 2.98–2.84 (m, 1H), 2.66–2.47 (m, 2H), 2.12–2.07 (m, 1H); 13C NMR (DMSO-d6) δ 172.67, 169.66, 169.02, 168.25, 166.61, 136.48, 135.91, 131.24, 124.35, 118.31, 116.04, 71.40, 59.10, 48.96, 30.91, 21.94; Anal. Calcd. For C16H15N3O6: C, 55.65; H, 4.38; N, 12.17. Found: C, 55.58; H, 4.40; N, 12.08.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 2.0 mmol, 0.55 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 2-methoxyacetyl chloride | 4.0 mmol, 0.43 g | COCC(=O)Cl | C3H5ClO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]-2-methoxyacetamide | 0.69 g, 100% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(COC)=O)=O)=O | C16H15N3O6
